US04224330
Using the procedure of Example 10, (6-phenylthio-2-pyridyl)methanol is reacted with 2-(5-chloro-2-benzothienyl)-3-methylbutanoic acid to give (6-phenylthio-2-pyridyl)methyl 2-(5-chloro-2-benzothienyl)-3-methylbutanoate.

reactant | (6-phenylthio-2-pyridyl)methanol | C1(=CC=CC=C1)SC1=CC=CC(=N1)CO | C12H11NOS
reactant | 2-(5-chloro-2-benzothienyl)-3-methylbutanoic acid | ClC=1C=CC2=C(C=C(S2)C(C(=O)O)C(C)C)C1 | C13H13ClO2S
product | (6-phenylthio-2-pyridyl)methyl 2-(5-chloro-2-benzothienyl)-3-methylbutanoate | ClC=1C=CC2=C(C=C(S2)C(C(=O)OCC2=NC(=CC=C2)SC2=CC=CC=C2)C(C)C)C1 | C25H22ClNO2S2
